US05292732
2-(2-Bromoethyl)-1,3-dioxolane (38 ml) was added dropwise within 15 minutes under argon and while stirring at a maximum 30° C. to a suspension of Rieke magnesium, prepared from 43.5 g of magnesium chloride, in 1300 ml of absolute tetrahydrofuran. The suspension was stirred at room temperature for 30 minutes, cooled to 0° C. and, after the addition of 42.2 g of copper(I) bromide, stirred at 0° C. for 15 minutes. After cooling to -70° C. 50.0 g of 3,4-dimethoxybenzoyl chloride in 200 ml of absolute tetrahydrofuran were added dropwise within 20 minutes. The reaction mixture was stirred at -70° C. for 30 minutes and at room temperature for 2 hours and subsequently hydrolyzed with 1000 ml of saturated ammonium chloride solution while cooling at a maximum 20° C. After the addition of 500 ml of water the mixture was extracted three times with ethyl acetate (1×1000 ml, 2×500 ml). The combined organic extracts were washed with 1000 ml of saturated sodium chloride solution, dried over MgSO4 and freed from solvent. The residue, 69.5 g of dark brown oil, was chromatographed on 1000 g of silica gel with ethyl acetate/hexane (1:1) as the eluent. There were obtained 26.5 g of crude product which were dissolved in a 12-fold amount of n-hexane with the addition of 100 ml of methylene chloride. 50 ml of methylene chloride were distilled off. 22.3 g (34%) of 3-(1,3-dioxolan-2-yl)-3',4'-dimethoxypropiophenone were isolated as colourless crystals which melted at 103°-105° C.

reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 38 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | magnesium | [Mg] | Mg
reactant | magnesium chloride | 43.5 g | [Cl-].[Mg+2].[Cl-]
reactant | 3,4-dimethoxybenzoyl chloride | 50.0 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | ammonium chloride | 1000 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | copper(I) bromide | 42.2 g | [Cu]Br
solvent | water | 500 ml | O | H2O
product | 3-(1,3-dioxolan-2-yl)-3',4'-dimethoxypropiophenone | 22.3 g, 34% | O1C(OCC1)CCC(=O)C1=CC(=C(C=C1)OC)OC | C14H18O5
